US06818777B2
In said general formula A, the compound of R1═MsO, R2═Boc, R3═Me, R4═Bn and R5═THP can be effectively synthesized by using quinoline derivative whose hydrogen of hydroxyl group located on 7-position is substituted by alkylsulfonyl group or arylsulfonyl group as a starting material. For example, phenylisothiocyanate having α,β-unsaturated aldehyde is obtained by ring-opening reaction (THF/H2O mixed solution of Na2CO3) of 7-mesyloxyquinoline with thiophosgene (CSCl2) and aldehyde is reduced to alcohol and protected. Then thioamide compound is synthesized by nucleophilic addition reaction of derivatives of malonic acid (in tetrahydrofuran solution of NaH, benzylmethyl malonate is cooled by ice-bath), and the obtained thioamide compound is reacted (in the argon atmosphere) at the temperature of 80° C. in toluene solution of tri-n-butyltin hydride (n-Bu3SnH) and 2,2′-azobisisobutyronitrile (AIBN). After cooled down to room temperature, saturated KF solution is added and the resulted mixture was stirred at room temperature, and then diluted with ethyl acetate. After washing with brine, organic layer is dried over magnesium sulfate anhydride and solvent is removed by vacuum. Then the residue is subjected to a silica gel column chromatography and by elution with n-hexane:ethylacetate=2:1 mixed solvent, thus indole derivative compound 1 is obtained.

reactant | malonic acid | C(CC(=O)O)(=O)O | C3H4O4
reactant | tri-n-butyltin hydride | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | KF | [F-].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | indole | N1C=CC2=CC=CC=C12 | C8H7N
